US07838499B2
Preparation of (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-3-(4-(2-(difluoromethoxy)ethyl)benzyl)phenyl)tetrahydro-2H-pyran (Intermediate BM)
To a mixture of 2-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)phenyl)ethanol (intermediate BL) (20 mg, 0.020 mmol) and sodium sulfate (0.40 mg, 0.003 mmol) in anhydrous acetonitrile (0.5 mL) kept at 45° C. was added 2,2-difluoro-2-(fluorosulfonyl)acetic acid (4.63 mg, 2.7 μL, 0.026 mmol). The mixture was stirred at this temp for 1 h and poured into 3 mL water. Product was extracted into ether (3×1 mL), dried (Na2SO4) and evaporated. The residue was purified by TLC using 6:1 hexane:EtOAc to obtain intermediate BM (7 mg, yield 33%).

reactant | 2-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)phenyl)ethanol | 0.020 mmol, 20 mg | ClC1=C(CC2=CC=C(C=C2)CCO)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C49H49ClO6
reactant | sodium sulfate | 0.003 mmol, 0.40 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,2-difluoro-2-(fluorosulfonyl)acetic acid | 0.026 mmol, 2.7 μL, 4.63 mg | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
reactant | water | 3 mL | O | H2O
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-3-(4-(2-(difluoromethoxy)ethyl)benzyl)phenyl)tetrahydro-2H-pyran | yield 33% | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)CCOC(F)F)COCC1=CC=CC=C1 | C50H49ClF2O6
